US06174901B1
Procedure for Preparation of 2-((S)-2-amino-3-phenylpropoxy)-4-(3-methylphenyl)-5-(4-pyridyl)pyridine
To a stirred mixture of 4-(3-methylphenyl)-5-(4-pyridyl)-1H-pyrid-2-one (12 mg, 0.05 mmole), (S)-2-tert-butoxycarbonylamino-3-phenylpropanol (15 mg, 0.06 mmole), triphenylphosphine (18 mg, 0.07 mmole), in methylene chloride (1 mL) at room temperature was added diethyl azodicarboxylate (12 mg, 0.07 mmol). When the reaction was complete (monitored by TLC), methanol was added (1 mL) and the reaction was concentrated and treated with 1 mL of 1:1 TFA/methanol for 30 minutes. The mixture was concentrated, neutralized with 1 drop conc NH4OH, and purified (SiO2, 10% methanol/methylene chloride) to give the title compound: MS (m/z): Calcd. C26H25N3O (M+): 395, found (M+H)+: 396.

reactant | 4-(3-methylphenyl)-5-(4-pyridyl)-1H-pyrid-2-one | 0.05 mmole, 12 mg | CC=1C=C(C=CC1)C1=CC(NC=C1C1=CC=NC=C1)=O | C17H14N2O
reactant | (S)-2-tert-butoxycarbonylamino-3-phenylpropanol | 0.06 mmole, 15 mg | C(C)(C)(C)OC(=O)N[C@H](CO)CC1=CC=CC=C1 | C14H21NO3
reactant | triphenylphosphine | 0.07 mmole, 18 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.07 mmol, 12 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-((S)-2-amino-3-phenylpropoxy)-4-(3-methylphenyl)-5-(4-pyridyl)pyridine | N[C@H](COC1=NC=C(C(=C1)C1=CC(=CC=C1)C)C1=CC=NC=C1)CC1=CC=CC=C1 | C26H25N3O
